US07576074B2
A solution of 4-[(4-bromo-3-chloro-2-fluorophenyl)amino]-6-(methyloxy)quinazolin-7-ol trifluoroacetate (salt) (0.217 g, 0.425 mmol), 1,1-dimethylethyl (3aR,6aS)-5-{[(methylsulfonyl)oxy]methyl}hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (0.163 g, 0.510 mmol), potassium carbonate (0.290 g, 2.12 mmol) in N,N-dimethylacetamide (1.6 mL) was heated in a sealed reaction tube at 90° C. for 12 h. The crude reaction mixture was diluted with 100 mL of 10% methanol in ethyl acetate and washed with water (5×30 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (SiO2, 3:1 hexanes:acetone) provided 1,1-dimethylethyl (3aR,6aS)-5-({[4-[(4-bromo-3-chloro-2-fluorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy} methyl)hexahydrocyclopenta [c]pyrrole-2(1H)-carboxylate which was used directly in the next step. MS (EI) for C28H31N4O4FClBr: 623 (MH+).

reactant | 4-[(4-bromo-3-chloro-2-fluorophenyl)amino]-6-(methyloxy)quinazolin-7-ol trifluoroacetate | 0.425 mmol, 0.217 g | FC(C(=O)O)(F)F.BrC1=C(C(=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)O)F)Cl
reactant | 1,1-dimethylethyl (3aR,6aS)-5-{[(methylsulfonyl)oxy]methyl}hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 0.510 mmol, 0.163 g | CS(=O)(=O)OCC1C[C@@H]2[C@@H](CN(C2)C(=O)OC(C)(C)C)C1 | C14H25NO5S
reactant | potassium carbonate | 2.12 mmol, 0.290 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 1.6 mL | CN(C(C)=O)C | C4H9NO
solvent | methanol | 100 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethylethyl (3aR,6aS)-5-({[4-[(4-bromo-3-chloro-2-fluorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy} methyl)hexahydrocyclopenta [c]pyrrole-2(1H)-carboxylate | BrC1=C(C(=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1C[C@@H]2[C@@H](CN(C2)C(=O)OC(C)(C)C)C1)F)Cl | C28H31BrClFN4O4
